US07678810B2
A 1.02M solution of diisobutylalminium hydride in toluene (16 ml) was added dropwise to a solution of methyl(2-oxopyrrolidin-1-yl)acetate (1.01 g) in toluene (10 ml) at −78° C., and the mixture was stirred for 1 hour. The reaction solution was quenched with methanol at −78° C., then diluted with a 1N aqueous solution of hydrochloric acid, and allowed to warm to room temperature with stirring. The reaction solution was filtered through celite and then the filtrate was dried up. The residue was purified by silica gel column chromatography (chloroform:methanol=95:5→90:10) to yield 2-oxopyrrolidin-1-yl-acetaldehyde (120 mg) as a colorless oil.

reactant | hydride | [H-]
reactant | methyl(2-oxopyrrolidin-1-yl)acetate | 1.01 g | COC(CN1C(CCC1)=O)=O | C7H11NO3
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-oxopyrrolidin-1-yl-acetaldehyde | 120 mg | O=C1N(CCC1)CC=O | C6H9NO2
